US08071592B2
(a) 1,1-Dimethylethyl (6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)(1-{2-[3-(methyloxy)-6-oxopyrido[2,3-b]pyrazin-5(6H)-yl]ethyl}-4-piperidinyl)carbamate
A suspension of [3-(methyloxy)-6-oxopyrido[2,3-b]pyrazin-5(6H)-yl]acetaldehyde (240 mg, assuming 191 mg of aldehyde) and 1,1-dimethylethyl (6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)-4-piperidinylcarbamate (305 mg) in chloroform (10 mL) and methanol (1.5 mL) was stirred at room temperature under argon for 1 h before addition of sodium triacetoxyborohydride (553 mg). The reaction was stirred at rt overnight. A saturated solution of sodium bicarbonate (20 mL) was added to the reaction and the aqueous was extracted with 10% MeOH/DCM (3×50 mL). The combined organic phases were dried (MgSO4), evaporated and the residue was subjected to column chromatography on silica gel eluting with 0-10% methanol-DCM to afford 358 mg of the title compound (60%).

reactant | [3-(methyloxy)-6-oxopyrido[2,3-b]pyrazin-5(6H)-yl]acetaldehyde | 240 mg | COC1=CN=C2C(=N1)N(C(C=C2)=O)CC=O | C10H9N3O3
reactant | 1,1-dimethylethyl (6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)-4-piperidinylcarbamate | 305 mg | N1=NC(=CC2=C1OCCO2)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C17H26N4O4
reactant | sodium triacetoxyborohydride | 553 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1.5 mL | CO | CH4O
product | 1,1-Dimethylethyl (6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)(1-{2-[3-(methyloxy)-6-oxopyrido[2,3-b]pyrazin-5(6H)-yl]ethyl}-4-piperidinyl)carbamate | 358 mg, 60% | N1=NC(=CC2=C1OCCO2)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC=1C2=NC(=CN1)OC)=O | C27H35N7O6
